US06534135B1
Following the Procedure A, the reaction was performed with 1.96 g of 2,3,4-trimethoxybenzaldehyde (10 mmol) and 2.07 g of 2,3,4-trimethoxyphenyl-acetonitrile (10 mmol), affording 2,3-bis-(2,3,4-trimethoxy-phenyl)-acrylonitrile as yellow powder (yield 3.6 g, 93%).

reactant | 2,3,4-trimethoxybenzaldehyde | 10 mmol, 1.96 g | COC1=C(C=O)C=CC(=C1OC)OC | C10H12O4
reactant | 2,3,4-trimethoxyphenyl-acetonitrile | 10 mmol, 2.07 g | COC1=C(C=CC(=C1OC)OC)CC#N | C11H13NO3
product | 2,3-bis-(2,3,4-trimethoxy-phenyl)-acrylonitrile | yield 3.6 g, 93% | COC1=C(C=CC(=C1OC)OC)C(C#N)=CC1=C(C(=C(C=C1)OC)OC)OC | C21H23NO6
